US07368605B2
Preparation of the Intermediate Product N,N′-bis(ter-butoxycarbonyl)-S-methylthiourea
The product was prepared starting from S-methylisothiourea sulphate (100 mg, 0.36 mmol) dissolved in CH2Cl2 (1.5 ml) and (Boc)2O (314 mg, 1.44 mmol) and 1.44 ml of NaHCO3 sat. sol. as reported in J. Med. Chem. 1993, 36, 2956-2963. The reaction mixture was left to stir at room temperature for 18 hours. At the end of this period, CH2Cl2 (2 ml) was added to the reaction mixture, the organic phase was separated from the aqueous phase and the aqueous phase was extracted with CH2Cl2. The pooled organic fractions were washed with NaCl s.s. and dried on anhydrous Na2SO4. The residue was purified by silica gel chromatography using AcOEt/propyl ether 1:3 as eluent to give 105 mg of product as a white solid (yield: 100%). The analytical data were as reported in the literature.

reactant | S-methylisothiourea sulphate | 0.36 mmol, 100 mg | S(=O)(=O)(O)O.CSC(N)=N
reactant | (Boc)2O | 1.44 mmol, 314 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaHCO3 | 1.44 ml | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 1.5 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | N,N′-bis(ter-butoxycarbonyl)-S-methylthiourea | 105 mg, yield: 100% | C(C)(C)(C)OC(=O)NC(=SC)NC(=O)OC(C)(C)C | C12H24N2O4S
